US07544812B2
1-(4-tert-Butyl-benzyl)-4-[3-(4-methoxy-3-methyl-phenyl)-propyl]-3-methyl-imidazolidin-2-one
1-(4-tert-Butyl-benzyl)-4-[3-(3-iodo-4-methoxy-phenyl)-propyl]-3-methyl-imidazolidin-2-one (0.300 g, 0.580 mmole), methyl boronic acid (0.069 g, 1.16 mmole) and cesium carbonate (0.264 g, 1.74 mmole) are mixed in dioxane (6.0 mL). After bubbling with nitrogen for 15 minutes, 1,1′-bis(diphenylphosphino)ferrocence palladium (II) chloride (0.060 g, 0.015 mmole) is added. The reaction is heated at 80° C. for 4 hours. The solvent is removed on rota-vapor, and the crude product is purified by column chromatography (silica gel, gradient elution 0-20% acetone in hexane) to provide a yellow oil (0.153 g, 65%). Mass [EI+] 409 (M+H)+, 817(M+H)+.

reactant | 1-(4-tert-Butyl-benzyl)-4-[3-(3-iodo-4-methoxy-phenyl)-propyl]-3-methyl-imidazolidin-2-one | 0.580 mmole, 0.300 g | C(C)(C)(C)C1=CC=C(CN2C(N(C(C2)CCCC2=CC(=C(C=C2)OC)I)C)=O)C=C1 | C25H33IN2O2
reactant | methyl boronic acid | 1.16 mmole, 0.069 g | CB(O)O | CH5BO2
reactant | cesium carbonate | 1.74 mmole, 0.264 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
product | 1-(4-tert-Butyl-benzyl)-4-[3-(4-methoxy-3-methyl-phenyl)-propyl]-3-methyl-imidazolidin-2-one | 0.153 g, 65% | C(C)(C)(C)C1=CC=C(CN2C(N(C(C2)CCCC2=CC(=C(C=C2)OC)C)C)=O)C=C1 | C26H36N2O2
